US05049669
A solution of 10-[(2RS)-1-(N-ethyl-N-methyl-amino)-2-propyl]-2-phenothiazinecarbonitrile (3 g) and triethylamine (1.3 cc) in anhydrous pyridine (60 cc) is treated with excess hydrogen sulphide, and stirring is then continued for 16 hours at a temperature in the region of 20° C. The solution obtained is purged with a stream of nitrogen for 1 hour, poured into ethyl acetate (100 cc), washed with distilled water (3×200 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at.40° C. The residual brown oil is purified by chromatography on a column (height: 40 cm; diameter: 3 cm) of silica gel (0.2-0.06 mm), eluting successively with methylene chloride (1 liter), a mixture (95:5 by volume) (1 liter) of methylene chloride and methanol and a mixture (80:20 by volume) (3 liters) of methylene chloride and methanol, and collecting 150-cc fractions. Fractions 26 to 30 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. 10-[(2RS)-1-(N-Ethyl-N-methylamino)-2-propyl]-2-phenothiazinecarbothioamide (2.15 g) is thereby obtained in the form of an orange oil.

reactant | 10-[(2RS)-1-(N-ethyl-N-methyl-amino)-2-propyl]-2-phenothiazinecarbonitrile | 3 g | C(C)N(C)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C19H21N3S
reactant | triethylamine | 1.3 cc | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulphide | S | H2S
solvent | pyridine | 60 cc | N1=CC=CC=C1 | C5H5N
product | 10-[(2RS)-1-(N-Ethyl-N-methylamino)-2-propyl]-2-phenothiazinecarbothioamide | 2.15 g | C(C)N(C)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(N)=S | C19H23N3S2
